US04148811
Following the procedure of Example I, stearoyl chloride is reacted with chlorine in the presence of ClSO3H and TCNQ. The product is distilled to provide substantially pure 2-chlorostearoyl chloride.

reactant | stearoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | chlorine | ClCl | Cl2
reactant | ClSO3H | ClS(=O)(=O)O | ClHO3S
reactant | TCNQ | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
product | 2-chlorostearoyl chloride | ClC(C(=O)Cl)CCCCCCCCCCCCCCCC | C18H34Cl2O
